Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim / Nafcillin / Lisinopril / difficult intubation requires 
LMA
 
Attending: ___.
 
Chief Complaint:
Leg pain
 
Major Surgical or Invasive Procedure:
___: Left below knee amputation

 
History of Present Illness:
Ms. ___ is a ___ woman with DMII, CAD s/p CABG x4, ESRD on 
daily PD, DMII and history of gangrene of multiple digits of 
both hands with prior amputations of R ___ digits, and 
nonhealing wounds on the left foot. She presents now preop for 
her scheduled below-knee amputation tomorrow. She has been in 
her usual state of health at rehab with no complaints currently, 
other than her foot pain which she states is at baseline for 
her. Of note the patient has a history of difficult intubations.
 
Past Medical History:
- CAD s/p CABG x5 ___ (LIMA-LAD, SVG-PDA, SVG-OM1,
SVG-OM2, SVG-D1, c.b. sternal wound infection. ___:  All
SVGs occluded.  LCX BMS, OM1 BMS. ___: OM PCI/brachy therapy 
for
ISR. ___: DES to OM1 for ISR, DES to LCX for ISR.  Last cath
___: OM filled by collaterals.
- Heart failure with preserved EF: EF 50% (___)  
- DM c/b neuropathy/retinopathy/gastroparesis  HbA1c 6% in 5.13. 
 
- ESRD, peritoneal dialysis.  
- Severe hypotenson: SBPs down to ___, unable to auscultate 
pulse during recent Cardiology apt, started on midodrine in 
___. This was d/c'd during last hospitalization d/t 
gangrene of fingers.  
- Hyperlipidemia  
- Obesity.  
- Depression.  
- Left Charcot foot  
- LLE osteomyelitis ___
- Massive UGI bleed ___, s.p. 12 U PRBC transfusion from 
large gastric ulcer
- LUE DVT involving PICC ___
- MSSA bacteremia ___ 
- Gangrene of multiple digits or Rt hand: s/p Rt ___ finger 
amputation.  
- H/o UGIB  
- H/o LUE DVT 
- Home Oxygen 2L NC  

 
Social History:
___
Family History:
significant for CAD
 
Physical Exam:
On admission:
VS- 98.6  95  120/68  18  100%2L nc
Gen- alert and oriented x3 NAD
CV- RRR
Pulm- easy WOB
Abd- soft, obese, NT ND
Ext- necrotic fingertips L hand, s/p amp R ___ digits with
necrotic ulcers at amputation sites. Multiple dry ulcers over 
the
left foot.
  Fem  Pop  DP  ___
R P    P    D   D
L P    D    D   -

On discharge:
Tm 101 (3PM day prior) Tc 98 HR 87 BP 91/51 RR 14 97% BS 123-167
Gen: NAD
HEENT: MMM
CV: RRR
PULM: CTAB nonlabored breathing
ABD: soft ntnd
Ext: L hand digits ___ necrotic, R hand digits ___ s/p 
amputation, digits ___ with necrotic distal tip, L BKA with 
staples in place healing well in leg immobilizer
Pulse exam
  Fem  Pop  DP  ___
R P    P    D   D
L P    BKA
 
Pertinent Results:
--Hematology--
WBC 14.7, remained elevated, 11.8 on discharge
Hct stable ___ s/p 3U pRBCs
Plts 300s

Cr 5.9-6.7
Trop 0.37-0.43 post-operatively
Phosph ___ stable

EKG ___
Sinus rhythm. Anteroseptal and lateral ST segment changes may be 
due to 
myocardial ischemia. Clinical correlation is suggested. Compared 
to the 
previous tracing of ___ there is no significant interval 
diagnostic changes.  
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
94 152 90 ___ 121 
 
CXR ___ Preop
Large region of consolidation in the left lower lobe has been 
present at least to some degree since ___, when chest CT 
showed a large region of atelectasis.  Whether this is 
atelectasis alone or the patient has developed a hypostatic 
pneumonia in the adjacent lung is not determinable from the 
conventional radiographs alone.  The right lung is clear.  The 
heart is top normal size.  Small right pleural effusion is 
present.  There is no pulmonary edema.  A right PIC line ends 
close to the superior cavoatrial junction. 

BKA tissue ___
- Skin, and subcutaneous tissue with ulceration; acute and 
chronic
inflammation and  necrosis.
- Arteries with marked atherosclerosis.
- Bone with changes consistent with chronic osteomyelitis.
 
Brief Hospital Course:
Ms ___ was admitted to the vascular service on ___ 
for pre-op workup prior to an elective left below the knee 
amputation planned for ___.  She had a standard pre-op 
workup done which showed stable ST changes on her EKG and stable 
LLL consolidation on the CKG.  UA was negative.  She was made 
NPO without IVF and started on SQH. She went to the OR on 
___ for a left BKA.  There were no intraoperative 
complications.  She had a slighly elevated troponin 
post-operatively which was 0.37 to 0.43.  She was transfused a 
unit of blood for a drifting hematocrit to 20.8 post-operatively 
on ___.  She was also started on gabapentin.  She underwent 
peritoneal dialysis throughout the admission.  She was restarted 
on her home medications post-operatively including aspirin.  She 
was also started on ceftazipime/cipro/flagyl.  Her knee was 
placed in an immobilizer.  She was made bedrest and on POD1 with 
an order to get out of bed to chair was evaluated by physical 
therapy who recommended that she be sent to rehab after.  She 
was transfused an additional two units of blood on ___.  Her 
diet was advanced to regular on ___ which she tolerated 
well.  She was maintained on CPAP overnight for known OSA.  She 
was transfused again on ___ for a drifting hematocrit. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Bisacodyl 10 mg PO DAILY:PRN constipation 
3. Collagenase Ointment 1 Appl TP DAILY 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
5. Ezetimibe 10 mg PO DAILY 
6. Ferrous GLUCONATE 324 mg PO DAILY 
7. HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN pain 
8. Glargine 5 Units Breakfast
Glargine 15 Units Bedtime
Humalog 3 Units Breakfast
Humalog 3 Units Lunch
Humalog 3 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
9. Lactulose 30 mL PO Q8H:PRN constipation 
10. Lorazepam 0.5 mg PO Q6H:PRN anxiety 
11. Lanthanum 1000 mg PO TID W/MEALS 
12. Metoclopramide 5 mg PO TID 
13. Nephrocaps 1 CAP PO DAILY 
14. Nystatin Cream 1 Appl TP BID:PRN fungal infection 
15. Omeprazole 40 mg PO DAILY 
16. Rosuvastatin Calcium 40 mg PO QPM 
17. Senna 1 TAB PO HS 
18. Sertraline 100 mg PO DAILY 
19. Sodium Thiosulfate 25 g IV Q3WEEKLY WITH PD 
20. Acetaminophen 1000 mg PO Q8H:PRN pain 
21. Ondansetron 4 mg IV Q8H:PRN n/v 
22. Epoetin Alfa 30,000 UNIT SC QMOWEFR 
23. Sodium Chloride 0.9%  Flush 10 mL IV PRN line flush 
24. LOPERamide 4 mg PO QID:PRN diarrhea 
25. Mirtazapine 15 mg PO HS 
26. Levothyroxine Sodium 25 mcg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Aspirin 325 mg PO DAILY 
3. Bisacodyl 10 mg PO DAILY:PRN constipation 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
5. Ezetimibe 10 mg PO DAILY 
6. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
7. Glargine 5 Units Breakfast
Glargine 15 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
8. Lactulose 30 mL PO TID 
9. Lorazepam 1 mg PO HS:PRN anxiety 
10. Nephrocaps 1 CAP PO DAILY 
11. Omeprazole 40 mg PO DAILY 
12. Ondansetron 4 mg IV Q8H:PRN n/v 
13. Rosuvastatin Calcium 40 mg PO QPM 
14. Senna 1 TAB PO HS 
15. Sodium Chloride 0.9%  Flush 10 mL IV PRN line flush 
16. Sertraline 100 mg PO DAILY 
17. Lanthanum 1000 mg PO TID W/MEALS 
18. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
19. Gabapentin 300 mg PO BID 
20. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
21. Glucose Gel 15 g PO PRN hypoglycemia protocol 
22. Heparin 5000 UNIT SC TID 
23. Heparin Flush (1000 units/mL) 1250 UNIT IV ADD TO EACH PD 
DWELL and PRN, line flush 
24. Metoprolol Tartrate 5 mg IV Q6H:PRN sbp>140  
25. Minocycline 100 mg PO BID 
26. Ferrous GLUCONATE 324 mg PO DAILY 
27. Metoclopramide 5 mg PO TID 
28. Nystatin Cream 1 Appl TP BID:PRN fungal infection 
29. Sodium Thiosulfate 25 g IV Q3WEEKLY WITH PD 
30. LOPERamide 4 mg PO QID:PRN diarrhea 
31. Epoetin Alfa 30,000 UNIT SC QMOWEFR 
32. Collagenase Ointment 1 Appl TP DAILY 
33. Levothyroxine Sodium 25 mcg PO DAILY 
34. Mirtazapine 15 mg PO HS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Dry gangrene
Peripheral vascular disease

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital for an elective left below the 
knee amputation for chronic ischemic foot pain as well as 
nonhealing leg ulcers from peripheral vascular disease.  You 
were observed after this surgery for a week and you are safe to 
be discharged from the hospital.  Please weigh yourself every 
morning, call MD if weight goes up more than 3 lbs.  Please also 
watch for the danger signs below, and be sure to attend your 
follow up appointment with Dr. ___.
 
Followup Instructions:
___